US05145869
Into a solution of methyl 5-(3,4-dichlorophenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate (54.3 g) in dry dichloromethane (500 ml) were added portions of m-chloroperbenzoic acid (80%, 59.5 g) with stirring at 0° C. After stirring at room temperature for 4 hours, sodium sulfite was added. The reaction mixture was washed with a saturated sodium bicarbonate solution and water, dried over MgSO4, and concentrated in vacuo. The residue was recrystallized from hexane to give 49.5 g of methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate.

reactant | methyl 5-(3,4-dichlorophenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate | 54.3 g | ClC=1C=C(C=CC1Cl)SCC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C23H35Cl2NO3S
reactant | m-chloroperbenzoic acid | 59.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 49.5 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C23H35Cl2NO5S
